US09120749B2
(4-((1-(trans-4-aminocyclohexyl)-1H-pyrazol-4-yl)amino)-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-3-yl)(cyclopropyl)methanone dihydrochloride
To a solution of tert-butyl (trans-4-(4-((3-(cyclopropanecarbonyl)-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-4-yl)amino)-1H-pyrazol-1-yl)cyclohexyl)carbamate (23 mg, 0.036 mmol) in THF (3 mL) was added trifluoroacetic acid (2 mL). The resultant mixture was heated at 65° C. for 16 h. The mixture was then cooled to room temperature and concentrated. The resultant residue was purified by preparative HPLC (C18 silica, 10-90% acetonitrile/water with 0.05% TFA). The residue was dissolved in methanol (5 mL) and HCl (2 M in diethyl ether, 2.0 mL, 4 mmol) was added. The resultant solution was concentrated to give the desired product (11.1 mg, 50%) as a yellow solid. 1H NMR (500 MHz, MeOD) δ 9.50 (br s, 1H), 8.22 (d, J=8.7 Hz, 1H), 8.13 (br s, 1H), 8.00 (d, J=8.7 Hz, 2H), 7.63 (s, 2H), 7.36 (br s, 2H), 4.35-4.31 (m, 1H), 3.26-3.17 (m, 1H), 2.97-2.89 (br s, 1H), 2.28-2.16 (m, 4H), 2.04-1.91 (m, 2H), 1.70-1.58 (m, 2H), 1.33-1.20 (m, 4H). ESI MS m/z 536 [C28H27Cl2N5O2+H]+; HPLC 96.0% (AUC), tR=11.44 min.

reactant | tert-butyl (trans-4-(4-((3-(cyclopropanecarbonyl)-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-4-yl)amino)-1H-pyrazol-1-yl)cyclohexyl)carbamate | 0.036 mmol, 23 mg | C1(CC1)C(=O)C=1C=NC2=CC=C(C=C2C1NC=1C=NN(C1)[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O)C1=CC(=C(C(=C1)Cl)O)Cl | C33H35Cl2N5O4
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | HCl | 4 mmol, 2 M, 2.0 mL | Cl | ClH
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | (4-((1-(trans-4-aminocyclohexyl)-1H-pyrazol-4-yl)amino)-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-3-yl)(cyclopropyl)methanone dihydrochloride | 11.1 mg, 50% | Cl.Cl.N[C@@H]1CC[C@H](CC1)N1N=CC(=C1)NC1=C(C=NC2=CC=C(C=C12)C1=CC(=C(C(=C1)Cl)O)Cl)C(=O)C1CC1 | InChI=1S/C28H27Cl2N5O2.2ClH/c29-23-10-17(11-24(30)28(23)37)16-3-8-25-21(9-16)26(22(13-32-25)27(36)15-1-2-15)34-19-12-33-35(14-19)20-6-4-18(31)5-7-20;;/h3,8-15,18,20,37H,1-2,4-7,31H2,(H,32,34);2*1H/t18-,20-;;
